US07601856B2
A mixture of 4-nitro-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-benzamide (0.67 g, 2.0 mmol) and Raney nickel (-1 g wet weight) in ethanol (200 mL) was hydrogenated at 40 PSI on a Parr shaker overnight. The mixture was filtered through Celite® and the filtrate was concentrated. The crude solid was recrystallized from acetonitrile to give 4-amino-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-benzamide (0.16 g). Mp 207-208° C; Anal. Calcd. for C19H18N2O2: C, 74.49; H, 5.92; N, 9.14; Found: C, 74.29; H, 5.74; N, 9.08.

reactant | 4-nitro-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-benzamide | 2.0 mmol, 0.67 g | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC3=C(OC4=C3CCCC4)C=C2)C=C1 | C19H16N2O4
catalyst | Raney nickel | -1 g | [Ni] | Ni
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 4-amino-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-benzamide | 0.16 g | NC1=CC=C(C(=O)NC2=CC3=C(OC4=C3CCCC4)C=C2)C=C1 | C19H18N2O2
